US09259470B2
TBSCl (1.3 g, 8.9 mmol) in dichloromethane (20 mL) was added dropwise at 0° C. over 10 minutes to a solution of tert-butyl 2-(1,2-dihydroxyethyl)-1H-indole-1-carboxylate (2.0 g, 7.2 mmol) and imidazole (1.20 g, 17.4 mmol) in DCM (30 mL). After being stirred at room temperature for 1 hour, the mixture was washed with water (2×50 mL) and brine, dried, and concentrated. The residue was purified by silica gel column chromatography eluting with petroleum ether/ethyl acetate (50:1) to give an oil, which was further purified by prep-HPLC to afford tert-butyl 2-(2-(tert-butyldimethylsilyloxy)-1-hydroxyethyl)-1H-indole-1-carboxylate (500 mg, 18% yield) as an oil. LCMS (ESI) m/z: 318.3 [M-56-17]+.

reactant | TBSCl | 8.9 mmol, 1.3 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | tert-butyl 2-(1,2-dihydroxyethyl)-1H-indole-1-carboxylate | 7.2 mmol, 2.0 g | OC(CO)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C15H19NO4
reactant | imidazole | 17.4 mmol, 1.20 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(2-(tert-butyldimethylsilyloxy)-1-hydroxyethyl)-1H-indole-1-carboxylate | 500 mg, 18% yield | [Si](C)(C)(C(C)(C)C)OCC(O)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C21H33NO4Si
